US04307106
N-phenethylthiourea (2.0 grams, 0.011 moles) and α-bromopropiophenone (2.34 grams, 0.011 moles, Aldrich Chem. Co.) in 10 ml absolute ethanol were heated to reflux temperature for 90 minutes under nitrogen. The ethanol was then removed under vacuum, excess ethyl acetate added and the solids filtered and dried over phosphorous pentoxide. Recrystallization from absolute ethanol yielded 2.86 grams (70%) of 2-phenethylamino-4-phenyl-5-methylthiazole hydrobromide, m.p. 172°-175° C.

reactant | N-phenethylthiourea | 0.011 moles, 2.0 grams | C(CC1=CC=CC=C1)NC(=S)N | C9H12N2S
reactant | α-bromopropiophenone | 0.011 moles, 2.34 grams | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-phenethylamino-4-phenyl-5-methylthiazole hydrobromide | 2.86 grams, 70% | Br.C(CC1=CC=CC=C1)NC=1SC(=C(N1)C1=CC=CC=C1)C | InChI=1S/C18H18N2S.BrH/c1-14-17(16-10-6-3-7-11-16)20-18(21-14)19-13-12-15-8-4-2-5-9-15;/h2-11H,12-13H2,1H3,(H,19,20);1H
